Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:7],3.97558463127
[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.1298255683
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7],5.08231970754
[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-4.73498664076
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17],1.82451628768
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.85130612925
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7],4.55970147565
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5668162717900005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2],2.73952182524
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.96543698497
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.9949429763
[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-7.10129678
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],1.9489669726
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12][H:13],1.5862518145700002
[O:1]=[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],3.5916080752900004
[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-7.16564201033
[C:1][O:2][C:3]1[C:4][O:5][C:6]1([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],1.09858565279
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.7211459160799998
[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3],5.303360537900001
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],2.20734202702
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.31184248004
[H:11].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.57293639203
[H:1][O:2][C:3](=[O:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],1.2035597935
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.99080462198
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],4.05338852442
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-3.99689248462
[C:1]=[C:2]([H:3])[H:4].[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.0277753927700002
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])[H:10].[H:1][C:2][C:3]([H:4])([H:5])[C:8][H:9],8.96164596783
